US07759385B2
The diastereoisomer mixture of (4-dimethylamino-4-phenylcyclohexylmethyl)-carbamic acid phenyl ester (599 mg, 1.7 mmole) was added to a solution of 3-piperidine-4-yl-1H-indole (340.5 mg, 1.7 mmole) in dioxane (12 ml). The reaction mixture was a clear solution above 40° C., and this solution was boiled for 24 hours under reflux. No precipitate was formed even at RT. The solvent was distilled off in vacuo. The residue contained, besides phenol, the two diastereoisomers of 4-(1H-indol-3-yl)piperidine-1-carboxylic acid-(4-dimethylamino-4-phenylcyclohexylmethyl)-amide. The diastereoisomers were separated and purified by flash chromatography on silica gel (75 g). Methanol/EE (1:1; 800 ml) and methanol (500 ml) were used as eluent. The non-polar diastereoisomer (281 mg, m.p. 89°-93° C., 36%) and the polar diastereoisomer of 4-(1H-indol-3-yl)piperidine-1-carboxylic acid-(4-dimethylamino-4-phenylcyclohexylmethyl)-amide (262 mg, m.p. 104°-107° C., 34%) were thereby obtained in pure form.

reactant | (4-dimethylamino-4-phenylcyclohexylmethyl)-carbamic acid phenyl ester | 1.7 mmole, 599 mg | C1(=CC=CC=C1)OC(NCC1CCC(CC1)(C1=CC=CC=C1)N(C)C)=O | C22H28N2O2
reactant | 3-piperidine-4-yl-1H-indole | 1.7 mmole, 340.5 mg | N1CCC(CC1)C1=CNC2=CC=CC=C12 | C13H16N2
solvent | dioxane | 12 ml | O1CCOCC1 | C4H8O2
product | 4-(1H-indol-3-yl)piperidine-1-carboxylic acid-(4-dimethylamino-4-phenylcyclohexylmethyl)-amide | 262 mg, 34% | CN(C1(CCC(CC1)CNC(=O)N1CCC(CC1)C1=CNC2=CC=CC=C12)C1=CC=CC=C1)C | C29H38N4O
